US05300509
A mixture of 4,6-dihydroxy-5-(2-furanylcarbonyl)amino-2-methylthiopyrimidine (2 g, 7.5 mM), p-methoxyphenethylamine (3.4 g, 22.5 mM), and water (25 ml) was heated at 90° C. for 15 hours. The mixture was then poured into water (100 ml) and acidified with concentrated hydrochloric acid until PH<3. The resultant precipitate was removed by filtration and recrystallised from methanol/water (3:1) to afford 4,6-dihydroxy-5-(2-furanylcarbonyl)amino-2-[(4-methoxyphenyl)ethyl]aminopyrimidine as a white solid (0.46 g, 16.6% yield) m.p. >250° C.; NMR: DMSO-d6 : 2.75(t, 2H, ArCH2), 3.47(brq, 2H, CH2NH), 3.73(s, 3H, OMe), 6.50(brs, 1H, NH), 6.61(m, 1H, furyl-H), 6.87(d, 2H, ArH), 7.16(d, 2H, ArH), 7.17(s, 1H furyl-H), 7.82(d, 1H, furyl-H), 8.64(brs, 1H, NHCO), 10.58(brs, 2H, OH×2); m/e [M+H]+, 371:

reactant | 4,6-dihydroxy-5-(2-furanylcarbonyl)amino-2-methylthiopyrimidine | 7.5 mM, 2 g | OC1=NC(=NC(=C1NC(=O)C=1OC=CC1)O)SC | C10H9N3O4S
reactant | p-methoxyphenethylamine | 22.5 mM, 3.4 g | COC1=CC=C(CCN)C=C1 | C9H13NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 4,6-dihydroxy-5-(2-furanylcarbonyl)amino-2-[(4-methoxyphenyl)ethyl]aminopyrimidine | 0.46 g, 16.6% yield | OC1=NC(=NC(=C1NC(=O)C=1OC=CC1)O)NCCC1=CC=C(C=C1)OC | C18H18N4O5
